US05563162
To a solution of N-methylethanolamine (600 mg), in N,N-dimethylformamide were added imidazole (1.13 g) and tert-butyldiphenylsilyl chloride (2.20 g) at ambient temperature with stirring. After 8 hours, the mixture was diluted with water (60 ml) and was extracted with ethyl acetate (20 ml) twice. The organic layer was washed with water three times and brine, dried over magnesium sulfate. The solvent was removed in vacuo. The residue was purified by column chromatography eluting with dichloromethane-methanol to give N-(2-tert-butyldiphenylsilyloxyethyl)-N-methylamine (780 mg) as an oil.

reactant | N-methylethanolamine | 600 mg | CNCCO | C3H9NO
reactant | imidazole | 1.13 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 2.20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | N-(2-tert-butyldiphenylsilyloxyethyl)-N-methylamine | 780 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCNC | C19H27NOSi
